data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_200669_1,[C:1]([N:2]([H:8])[H:9])([N:3]([H:10])[H:11])(/[N:6]=[C:5](\[N:4]([H:12])[H:13])[H:14])[H:7]>>[C:1](\[N:2]([H:8])[H:9])(=[N:6]/[C:5]([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[H:14])[H:7],57.64403249999333
MR_232580_0,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([N:5]([H:9])[H:10])[C:6]1([H:13])/[C:4](=[N:7]/[H:11])[N:8]1[H:12]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([N:5]([H:9])[H:10])[C:6](/[C:4](=[N:7]/[H:11])[H:13])=[N:8]/[H:12],59.78318000001423
MR_575777_1,[C:1]([O:5][N:7]([C:2]([O:6][H:9])=[O:8])[C:3](=[O:4])[H:10])([H:11])([H:12])[H:13]>>[C:1]([O:5]/[N:7]=[C:3](/[O:4][C:2]([O:6][H:9])=[O:8])[H:10])([H:11])([H:12])[H:13],46.006417500019694
MR_90488_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([C:4]([N:5]([H:11])[H:12])=[O:7])[H:9])([O:6][H:8])[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([O:6][H:8])([O:7]/[C:4](=[N:3]\[H:9])[N:5]([H:11])[H:12])[H:10],62.89683500000024
MR_63146_1,[C@:1]1([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])[C:2]([H:8])([H:9])[C:5]1=[O:6]>>[C:1](=[C:2]([H:8])[H:9])([C:5]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])=[O:6])[H:7],64.87346000000343
MR_367535_0,[C:1]1([C:7]([C:6]([H:20])([H:21])[H:22])=[O:9])([N:8]([H:10])[H:11])[C:2]([C:4]([H:14])([H:16])[H:17])([C:5]([H:15])([H:18])[H:19])[C:3]1([H:12])[H:13]>>[C:1]([C:2]([C:4]([H:14])([H:16])[H:17])([C:5]([H:15])([H:18])[H:19])[C:7]([C:6]([H:20])([H:21])[H:22])=[O:9])(=[C:3]([H:12])[H:13])[N:8]([H:10])[H:11],55.54629999997488
MR_407517_1,[C:1]([C:3]([O:7][N:2]([C:4]([N:5]([H:10])[H:11])=[C:6]([H:15])[H:16])[H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:3]([C:6]([C:4]1([N:5]([H:10])[H:11])[N:2]([H:9])[O:7]1)([H:15])[H:16])=[O:8])([H:12])([H:13])[H:14],47.60340499998264
MR_16852_1,[C:1](/[N:3]=[C:4](/[N:5]([H:8])[H:9])[C:6]([C:2]([H:14])([H:15])[H:16])([H:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:3](/[C:4]([N:5]([H:8])[H:9])=[C:6](/[C:2]([H:14])([H:15])[H:16])[H:10])[H:7])([H:11])([H:12])[H:13],59.33389000000716
MR_366531_1,[C:1]1([O:6][H:9])([H:11])[C:3]([C:2](=[C:4]([H:13])[H:14])[O:5][H:8])([H:12])[N:7]1[H:10]>>[C:1](/[C:3]([C:2](=[C:4]([H:13])[H:14])[O:5][H:8])=[N:7]/[H:10])([O:6][H:9])([H:11])[H:12],65.84734000004147
MR_215938_0,[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:7]([H:11])[H:12])[N:6]([H:9])[H:10])[H:8])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[C:4](/[C@@:5]([C:2]([H:16])([H:17])[H:18])([N:7]([H:11])[H:12])[H:8])[N:6]([H:9])[H:10])([H:13])([H:14])[H:15],48.89730999999742
MR_651668_0,[C:1]1(=[N:9]\[H:12])\[C:2]([C:3]([N:4]([H:10])[H:11])=[C:7]([H:16])[H:17])([C:5](=[C:8]([H:18])[H:19])[H:13])[C:6]1([H:14])[H:15]>>[C:1](\[C:2]([C:3]([N:4]([H:10])[H:11])=[C:7]([H:16])[H:17])=[C:6]([H:14])[H:15])([C:5](=[C:8]([H:18])[H:19])[H:13])=[N:9]\[H:12],71.87636000001476
MR_69153_1,[C:1]([C:2](/[N:7]=[C:4](\[O:6][C:3]([H:12])([H:13])[H:14])[H:9])([H:10])[H:11])(=[O:5])[H:8]>>[C:1]1([O:6][C:3]([H:12])([H:13])[H:14])([H:8])[C:2]([H:10])([H:11])[N:7]=[C:4]([H:9])[O:5]1,67.09920250001971
MR_20678_0,[C:1]([C:2]([N:3]([H:8])[H:9])=[C:4]([H:10])[H:11])([O:5][H:7])=[O:6]>>[C:1]1([O:5][H:7])=[C:2]([N:3]([H:8])[H:9])[C:4]([H:10])([H:11])[O:6]1,72.72097499995112
MR_341532_1,[C:1](\[N:5]([H:14])[H:15])([O:7]/[C:2]([N:6]([H:16])[H:17])=[N:9]/[N:4]([H:12])[H:13])=[N:8]/[N:3]([H:10])[H:11]>>[C:1](\[N:5]([H:14])[H:15])(=[N:8]/[N:3]([H:10])[H:11])[N:9]([C:2]([N:6]([H:16])[H:17])=[O:7])[N:4]([H:12])[H:13],27.4029250000126
MR_170777_0,[C:1]([N:3]([C:4]([N:6][C:2]([H:12])([H:13])[H:14])[H:8])[O:5][H:7])([H:9])([H:10])[H:11]>>[C:1]([N:6]([C:2]([H:12])([H:13])[H:14])/[C:4](=[N:3]\[O:5][H:7])[H:8])([H:9])([H:10])[H:11],69.83761250002573
MR_174588_0,[C@@:1]([C@@:2]([N:4]([H:12])[H:14])([O:6][H:8])[H:10])([N:3]([H:11])[H:13])([O:5][H:7])[H:9]>>[C@:1]([C@:2]([N:4]([H:12])[H:14])([O:5][H:7])[H:10])([N:3]([H:11])[H:13])([O:6][H:8])[H:9],70.53351000001655
MR_355216_1,[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([C:2]([H:11])([H:12])[H:13])/[N:6]=[N:7]/[O:5][H:8])([H:9])[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:7]([O:5][H:8])/[N:6]=[N:4]\[C:2]([H:11])([H:12])[H:13])([H:9])[H:10],66.35436000000979
MR_233860_1,[C:1](/[C:8](=[C:7](\[N:2](/[C:4](=[C:3](\[N:5]([H:12])[H:13])[O:9][H:10])[N:6]([H:14])[H:15])[H:11])[H:16])[H:17])([H:18])([H:19])[H:20]>>[C:1]([C:8]([C:7]1([H:16])[N:2]([H:11])[C:4]1(/[C:3](=[N:5]/[H:12])[O:9][H:10])[N:6]([H:14])[H:15])([H:13])[H:17])([H:18])([H:19])[H:20],35.967672500004255
MR_49195_0,[C:1]([C:4]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])=[O:7])([N:5]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([C:4](=[O:7])[H:9])([N:5]([H:10])[H:11])[O:6][H:8],47.15913500003424
MR_557001_1,[C:1]([C:6]1=[C:7]([C:2]([H:16])([H:17])[H:18])[N:5]([H:10])[N:4]([H:9])[N:3]1[N:8]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:6](=[N:3]\[N:8]([H:11])[H:12])[C:7]1([C:2]([H:16])([H:17])[H:18])[N:4]([H:9])[N:5]1[H:10])([H:13])([H:14])[H:15],59.781924999981726
